US08492582B2
1H-Imidazole (0.044 g), D-proline (0.013 g), potassium carbonate (0.15 g), and copper(I) iodide (0.010 g) were added to a dimethyl sulfoxide (1 mL) solution of methyl 2-(benzyloxy)-4-iodobenzoate (0.20 g), followed by stirring under a nitrogen atmosphere at 90° C. for 1 hour. The reaction mixture was cooled to room temperature, and then dimethyl sulfoxide (0.5 mL), D-proline (0.013 g), and copper(I) iodide (0.010 g) were added thereto, followed by stirring under a nitrogen atmosphere at 90° C. for 2 hours. After cooling the reaction mixture to room temperature, water and ethyl acetate were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-20% hexane/ethyl acetate] to obtain 0.13 g of methyl 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoate as a white solid.

reactant | 1H-Imidazole | 0.044 g | N1C=NC=C1 | C3H4N2
reactant | D-proline | 0.013 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(benzyloxy)-4-iodobenzoate | 0.20 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)I | C15H13IO3
reactant | D-proline | 0.013 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copper(I) iodide | 0.010 g | [Cu]I
catalyst | copper(I) iodide | 0.010 g | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
product | methyl 2-(benzyloxy)-4-(1H-imidazol-1-yl)benzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)N1C=NC=C1 | C18H16N2O3
